*transfo salle electrotech 115/230V 6kVA
.subckt T115_230_1-6kVA 1 2 4 3 
Rx 1 5 {R1}
Lx 5 6 {L1}
L4 6 7 {Lp/30}
Rperte 1 2 {Rf}
B4 7 2 V=V(6,7)*(30-1)/(1+(I(L4)/{Isat})**6)

RIsol 2 3 100Meg
F1 6 2 VAm1 {m}
E1 8 4 6 2 {m}
VAm1 8 9 0
RP 6 0 1Meg 
RS 9 3 1e-9 
.ends
