*integrator
*G(s)=ki/s
*
.subckt integrator I O
B1 O 0 V={ki}*idt(V(I))
.ends

*difference summer
*out=in1-in2
*
.subckt diff in1 in2 out
B1 out 0 V=V(in1,in2)
.ends

*weighted summer, 3 inputs
*out=k1*V(in1)+k2*V(in2)+k3*V(in3)
*
.subckt wtd_summer in1 in2 in3 out
B1 out 0 V={k1}*V(in1)+{k2}*V(in2)+{k3}*V(in3)
.ends
 
*
* Integrator (Helmut's)
* G(s)=Ki/(Ti*s)
*
.subckt CT___I in out
.param Ki=1 Ti=1 		; parameters
G1 0 1 in 0 1
C1 1 0 {Ti} IC=0
R1 1 0 1e10
E1 out 0 1 0 {Ki}
.ends

