* mcc.lib

.subckt mcc_12V_200mA IN+ IN- fcem params: k=30  J=2.5 R=10 L=5m f=0.06
R1 N001 in+ {R}
L1 N002 N001 {L}
B1 N003 in- V=K*V(OMEGA)
V1 N002 N003 0
R2 OMEGA 0 {f}
C1 OMEGA 0 {J}
B3 0 OMEGA I=K*(I(V1))
B2 fcem 0 V=K*V(OMEGA)
.ends

.subckt mcc_12V_2.5A IN+ IN- fcem params: k=10 J=4 R=1 L=0.5m f=0.05
R1 N001 in+ {R}
L1 N002 N001 {L}
B1 N003 in- V=K*V(OMEGA)
V1 N002 N003 0
R2 OMEGA 0 {f}
C1 OMEGA 0 {J}
B3 0 OMEGA I=K*(I(V1))
B2 fcem 0 V=K*V(OMEGA)
.ends
