* Model from Philips
.SUBCKT BS170 1 2 3
Cgs  2 3 12.3E-12
Cgd1 2 4 27.4E-12
Cgd2 1 4 6E-12
M1 1 2 3 3 MOST1
M2 4 2 1 3 MOST2
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.78u W=9.7m L=2u Rs=20m Vto=2 Rd=1.186)
.MODEL MOST2 NMOS(VTO=-4.73 Kp=20.78u W=9.7m L=2u Rs=20m)
.MODEL Dbody D(Is=125f N=1.023 Rs=1.281 Ikf=18.01 Cjo=46.3p M=.3423
+            Vj=.4519 Bv=60 Ibv=10u Tt=161.6n)
.ENDS



.SUBCKT 2N7000 1 2 3
Cgs  2 3 12.3E-12
Cgd1 2 4 27.4E-12
Cgd2 1 4 6E-12
M1 1 2 3 3 MOST1 W=9.7m L=2u
M2 4 2 1 3 MOST2 W=9.7m L=2u
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.78u W=9.7m L=2u Rs=20m Vto=2 Rd=1.186)
.MODEL MOST2 NMOS(VTO=-4.73 Kp=20.78u W=9.7m L=2u Rs=20m)
.MODEL Dbody D(Is=125f N=1.023 Rs=1.281 Ikf=18.01 Cjo=46.3p M=.3423
+            Vj=.4519 Bv=60 Ibv=10u Tt=161.6n)
.ENDS


*VN10LF ZETEX  Mosfet Spice Subcircuit  Nodes D G S   Last revision  12/85
*ZTX 60V 150mA pkg:SOT-23
.SUBCKT VN10LF 3 4 5
M1 3 2 5 5 N3306M L=1 W=1
RG 4 2 270
RL 3 5 1.2E8
D1 5 3 N3306D
.MODEL N3306M NMOS VTO=1.824 RS=1.572 RD=1.436 IS=1E-15 KP=.1233
+CGSO=28E-12 CGDO=3E-12 CBD=35E-12 PB=1
.MODEL N3306D D IS=5E-12 RS=.768
.ENDS VN10LF

*ZVN0124 ZETEX  Mosfet Spice Subcircuit  Nodes D G S   Last revision 6/91
*ZTX 240V 160mA pkg:TO-92
.SUBCKT ZVN0124 3 4 5
M1 3 2 5 5 N0124 L=1 W=1
RG 4 2 225
RL 3 5 2.4E7
D1 5 3 DN0124
.MODEL N0124 NMOS VTO=1.5512 RS=1.436 RD=9.254 IS=1E-15 KP=1.077
+CGSO=60E-12 CGDO=2E-12 CBD=36E-12 PB=1 LAMBDA=0
.MODEL DN0124 D IS=3.071E-12 N=1.026 RS=0.511
.ENDS ZVN0124

*ZVN2106 ZETEX  Mosfet Spice Subcircuit  Nodes D G S   Last revision  3/86
*ZTX 60V 450mA pkg:TO-92
.SUBCKT ZVN2106 3 4 5
M1 3 2 5 5 N2106 L=1 W=1
RG 4 2 120
RL 3 5 1.2E8
D1 5 3 DN2106
.MODEL N2106 NMOS VTO=1.512 RS=0.772 RD=0.449 IS=1E-15 KP=0.653
+CGSO=45E-12 CGDO=15E-12 CBD=63E-12 PB=1 LAMBDA=1.95E-3
.MODEL DN2106 D IS=2.25E-12 RS=0.404
.ENDS ZVN2106

*ZVN2106G ZETEX   Mosfet Spice Subcircuit  Nodes D G S   Last revision  3/86
*ZTX 60V 700mA pkg:SOT-223
.SUBCKT ZVN2106G 3 4 5
M1 3 2 5 5 N2106 L=1 W=1
RG 4 2 120
RL 3 5 1.2E8
D1 5 3 DN2106
.MODEL N2106 NMOS VTO=1.512 RS=0.772 RD=0.449 IS=1E-15 KP=0.653
+CGSO=45E-12 CGDO=15E-12 CBD=63E-12 PB=1 LAMBDA=1.95E-E
.MODEL DN2106 D IS=2.25E-12 RS=0.404
.ENDS ZVN2106G

*ZVN3306 ZETEX  Mosfet Spice Subcircuit  Nodes D G S   Last revision  12/85
*ZTX 60V 270mA pkg:TO-92
.SUBCKT ZVN3306 3 4 5
M1 3 2 5 5 N3306M L=1 W=1
RG 4 2 270
RL 3 5 1.2E8
D1 5 3 N3306D
.MODEL N3306M NMOS VTO=1.824 RS=1.572 RD=1.436 IS=1E-15 KP=.1233
+CGSO=28E-12 CGDO=3E-12 CBD=35E-12 PB=1
.MODEL N3306D D IS=5E-12 RS=.768
.ENDS ZVN3306

*ZVN3306F ZETEX  Mosfet Spice Subcircuit  Nodes D G S   Last revision  12/85
*ZTX 60V 150mA pkg:SOT-23
.SUBCKT ZVN3306F 3 4 5
M1 3 2 5 5 N3306M L=1 W=1
RG 4 2 270
RL 3 5 1.2E8
D1 5 3 N3306D
.MODEL N3306M NMOS VTO=1.824 RS=1.572 RD=1.436 IS=1E-15 KP=.1233
+CGSO=28E-12 CGDO=3E-12 CBD=35E-12 PB=1
.MODEL N3306D D IS=5E-12 RS=.768
.ENDS ZVN3306F

*ZVN4106  ZETEX  Spice Mosfet Subcircuit  Nodes D G S   Last revision 11/91
*ZTX 60V 200mA pkg:SOT-23
.SUBCKT ZVN4106 3 4 5
M1 3 2 5 5 NMOD1 L=1 W=1
RG 4 2 343
RL 3 5 6E6
D1 5 3 DIODE1
.MODEL NMOD1 NMOS VTO=2.474 RS=1.68 RD=0.0 IS=1E-15 KP=0.296
+CGSO=23.5P CGDO=4.5P CBD=53.5P PB=1 LAMBDA=267E-6
.MODEL DIODE1 D IS=1.254E-13 N=1.0207 RS=0.222
.ENDS ZVN4106

*ZVN4210  ZETEX  Spice Mosfet Subcircuit  Nodes D G S   Last revision 11/91
*ZTX
.SUBCKT ZVN4210 3 4 5
M1 3 2 5 5 NMOD1 L=1 W=1
RG 4 2 401.5
RL 3 5 1E7
D1 5 3 DIODE1
.MODEL NMOD1 NMOS VTO=1.922 RS=0.858 RD=0.2025 IS=1E-15 KP=2.082
+CGSO=61.5P CGDO=3.5P CBD=108P PB=1 LAMBDA=0
.MODEL DIODE1 D IS=1.10461E-12 N=1.0114 RS=0.166
.ENDS ZVN4210

*ZVN4310  ZETEX   Spice model  Nodes D G S   Last revision 6/92
*ZTX
.SUBCKT ZVN4310 30 40 50
M1 30 20 50 50 NMOD1 L=1 W=1
RG 40 20 82
RL 30 50 1E7
D1 50 30 DIODE1
.MODEL NMOD1 NMOS VTO=2.555 RS=0.2068 RD=0.1665 IS=1E-15 KP=5.02
+CGSO=200E-12 CGDO=13.5E-12 CBD=288E-12 PB=1 LAMBDA=0
.MODEL DIODE1 D IS=9.759E-13 N=1.02476 RS=0.0844
.ENDS ZVN4310

*   Copyright notice for all models labeled "ZETEX":
*
*                          (C)  1992 ZETEX PLC
*
*   The copyright in these models  and  the designs embodied belong
*   to Zetex PLC ("Zetex").  They  are  supplied  free of charge by
*   Zetex for the purpose of research and design and may be used or
*   copied intact  (including this notice)  for  that purpose only.
*   All other rights are reserved. The models are believed accurate
*   but  no condition  or warranty  as to their  merchantability or
*   fitness for purpose is given and no liability in respect of any
*   use is accepted by Zetex PLC, its distributors or agents.
*
*
*   Zetex PLC, Fields New Road, Chadderton, Oldham  OL9 8NP  U.K.


